Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, hematuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with PMHx ulcerative colitis (on remicaide as of
the end of ___ and celiac disease who presents as
referral from his Urgent Care due to transaminitis and
hyperbilirubinemia.  

Pt states he has been in his usual state of health over the past
6 weeks.  He started on infliximab around the time of ___
of this year.  Since starting infliximab, his stool frequency 
and
consistency have generally stayed the same ___ stools per day,
fairly solid).  Approximately 3 days ago (___), Pt had an
episode of constant epigastric abdominal pain, "sharp," that was
consistent with his prior UC flares.  Given that he thought he
had a flare, he was determined to just "ride it out" and let the
pain subside on its own.  He did not take any pain medicine for
this; he generally does not when he has UC flares.  Nothing in
particular made it worse.  The pain resolved after about a day.

Two days prior to arrival (___), patient started to have dark
"amber" colored urine.  He started drinking a lot of water (4L
per his account) and it only turned yellow, instead of clear.  
He
also began to have some light-colored stools; he thought it was
attributed to his fairly bland diet of rice/bananas (which he
started the preceding day due to believing he had a UC flare). 
However, he presented to his local Urgent Care for further
evaluation.

Pt reports he took 650mg of acetaminophen today for a headache.  


In the ED, initial VS were:  T 98.5 BP 218/110 HR 100 RR 16 O2
100% on RA
Exam notable for:  
Subtle scleral icterus appreciated. Abdomen nontender.
Well-appearing but anxious. Tachycardic, but patient admits that
he is very stressed out currently.
Labs showed:  
-ALT 485, AST 110, ALP 168, Tbili 4.1 / Dbili 3.3 (baseline from
CHA ___:  ALT 34, AST 18, ALP 72, Tbili 0.4 / Dbili 0.1)
-CK 88
-HBV screening panel, HAV (panel and IgM), AMA, smooth, ___, HCV
all pending
-Ferritin pending
-INR 1.1

Imaging showed:  
RUQUS (___):
1. Mildly echogenic liver, which may represent steatosis. Other
forms of liver 
disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis
cannot be 
excluded on the basis of this examination. 
2. No cholelithiasis or evidence of intrahepatic or extrahepatic
biliary 
ductal dilatation. 

Consults:  
-Hepatology:  
"Concern for PSC, vs AIH vs viral. Given immunosuppression also
concern of CVM, EBV, HSV. Will recommend admission to medicine
for complete workup.
 -HAV, HBV, HCV, CMV viral load, IgG and IgM, EBV IgG and IgM,
HSV 
 -___, AMA, ___
 -Ceruloplasmin, ferritin, alpha1 antitrypsin
 -Recommend MRCP
 -Pending above workup likely may require liver biopsy."
Patient received:  Nothing
 
Transfer VS were:  T 98.7 BP 132/93 HR 84 RR 16 O2 99% on RA

On arrival to the floor, patient reports the above history.  He
is particularly concerned about drug-induced liver injury.  
These
symptoms of abdominal pain, jaundice, and elevated LFT's are
similar to those that he had prior to two previous episodes of
suspected DILI (one before when on high-dose asacol [4800mg
daily]; one when on azathioprine).  He notes that his previous 
GI
in ___ had worried about PSC and obtained an MRCP and
abdominal ultrasound some time in ___, which did not show any
findings concerning for same.  

Pt notes associated nausea (which he attributes to drinking
almost 4L of water very quickly), a cough productive of clear
sputum, and runny/stuffy nose (has been happening since
initiation of infliximab).  He denies any fevers/chills, changes
in appetite, dizziness/lightheadedness, melena, hematochezia, or
hematuria.

His wife, ___, is at the bedside with him.  She says that he
has not been more confused or "not himself" of late.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
Ulcerative colitis since ___, patient ___ recently 
started on infliximab in ___
Celiac disease, diet controlled
 
Social History:
___
Family History:
Mother's side of the family with breast cancer.  Mother has
celiac disease and psoriasis.  Otherwise no FHx.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T 98.0 BP 128/86 HR 91 RR 18 O2 96% on RA
GENERAL: Thin ___ gentleman, sitting up in bed, somewhat tired
appearing.  Pleasant and cooperative.   
HEENT: MMM.  Minimal, if any, scleral icterus. 
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding.  No hepatosplenomegaly.  Negative ___
sign.
EXTREMITIES: Warm and well perfused.  No cyanosis, clubbing or
edema. 
PULSES: 2+ DP pulses bilaterally  
NEURO: No asterixis.  Moving all four extremities with purpose.
SKIN: No excoriations or lesions, no rashes 

DISCHARGE
24 HR Data (last updated ___ @ 005)
    Temp: 97.9 (Tm 98.7), BP: 119/75 (110-120/71-81), HR: 88
(87-100), RR: 18, O2 sat: 97% (97-98), O2 delivery: RA, Wt: 
135.7
lb/61.55 kg  
GENERAL: Thin gentleman, sitting up in bed.  Pleasant and
cooperative.   
HEENT: MMM.  No scleral icterus. 
HEART: RRR, normal S1/S2, intermittently tachycardic, no 
murmurs,
gallops, or rubs  
LUNGS: CTAB
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding.  No hepatosplenomegaly.  Negative ___
sign.
EXTREMITIES: Warm and well perfused.  No cyanosis, clubbing or
edema. 
PULSES: 2+ DP pulses bilaterally  
NEURO: No asterixis.  Moving all four extremities with purpose.
SKIN: No excoriations or lesions, no rashes  
 
Pertinent Results:
ADMISSION LABS

___ 02:11PM BLOOD WBC-8.1 RBC-4.65 Hgb-14.1 Hct-42.1 MCV-91 
MCH-30.3 MCHC-33.5 RDW-13.2 RDWSD-43.9 Plt ___
___ 02:11PM BLOOD Neuts-61.1 Lymphs-13.2* Monos-12.8 
Eos-12.0* Baso-0.7 Im ___ AbsNeut-4.94 AbsLymp-1.07* 
AbsMono-1.04* AbsEos-0.97* AbsBaso-0.06
___ 10:55PM BLOOD ___ PTT-32.4 ___
___ 02:11PM BLOOD Glucose-116* UreaN-6 Creat-1.0 Na-135 
K-4.4 Cl-98 HCO3-24 AnGap-13
___ 05:55AM BLOOD Albumin-4.6 Calcium-10.0 Phos-3.5 Mg-2.0
___ 02:11PM BLOOD ALT-516* AST-120* AlkPhos-163* 
TotBili-4.3*
___ 06:43PM BLOOD Ferritn-252
___ 06:43PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 06:43PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 06:43PM BLOOD ___
___ 05:55AM BLOOD IgG-1019
___ 05:55AM BLOOD HIV Ab-NEG
___ 06:43PM BLOOD HCV Ab-NEG
___ 06:00AM BLOOD CMV VL-PND

PERTINENT STUDIES

___ 02:11PM BLOOD ALT-516* AST-120* AlkPhos-163* 
TotBili-4.3*
___ 06:43PM BLOOD ALT-485* AST-110* CK(CPK)-88 AlkPhos-168* 
TotBili-4.1* DirBili-3.3* IndBili-0.8
___ 05:55AM BLOOD ALT-396* AST-75* AlkPhos-162* 
TotBili-3.4*
___ 06:00AM BLOOD ALT-291* AST-59* LD(LDH)-195 AlkPhos-153* 
TotBili-2.4* DirBili-1.7* IndBili-0.7

Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 30                  ___ mg/dL
ALPHA-1-ANTITRYPSIN QN        149                 83-199 mg/dL
IMMUNOGLOBULIN G SUBCLASS 1   ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 2   ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 3   153                 ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 4   193.9  H            ___ mg/dL
IMMUNOGLOBULIN G, SERUM       ___ mg/dL

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE BY EIA. 

___
___ ULTRASOUND
FINDINGS: 
 
LIVER: The liver is mildly echogenic. The contour of the liver 
is smooth.
There is no focal liver mass. The main portal vein is patent 
with hepatopetal
flow. There is no ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation.
  CHD: 3 mm
 
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.
 
SPLEEN:  Normal echogenicity.
  Spleen length: 8.3 cm
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal
limits.
 
IMPRESSION:
 
 
1. Mildly echogenic liver, which may represent steatosis. Other 
forms of liver
disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be
excluded on the basis of this examination.
2. No cholelithiasis or evidence of intrahepatic or extrahepatic 
biliary
ductal dilatation.
 
RECOMMENDATION(S):  Radiological evidence of fatty liver does 
not exclude
cirrhosis or significant liver fibrosis which could be further 
evaluated by
___. This can be requested via the ___ 
(FibroScan) or the
Radiology Department with either MR ___ or US 
___, in
conjunction with a GI/Hepatology consultation" *

___
MRCP
FINDINGS: 
 
Lower Thorax: No airspace disease or pleural effusion.
 
Liver: Somewhat heterogeneous enhancement involving the 
subcapsular liver on
arterial phase imaging which blends into the parenchyma on 
delayed imaging. 
This suggests active parenchymal liver disease.  No focal 
lesion.
 
Biliary: Minimal prominence of the intrahepatic biliary ductal 
dilatation with
slight beaded and appearance with irregular contours, and in 
some cases,
visible periductal enhancement suggests sclerosing cholangitis.  
The common
hepatic and free segment of the common bile duct show wall 
thickening with
early hyperenhancement suggesting inflammatory changes.  The 
gall bladder is
normal.  No biliary stones identified.
 Pancreas: Normal in attenuation and enhancement without mass or 
pancreatic
ductal dilatation. 
Spleen: Normal.
 Adrenal Glands: Normal. 
Kidneys: Subcentimeter simple cysts right kidney.  Kidneys are 
otherwise normal. 
Gastrointestinal Tract:  Normal as visualized. 
Lymph Nodes: No adenopathy. 
Vasculature: Widely patent. 
Osseous and Soft Tissue Structures: No fracture or suspicious 
osseous lesion.
 
IMPRESSION: 
 
1.  Heterogeneous attenuation of the subcapsular liver on 
arterial phase
imaging suggests active hepatic parenchymal inflammation.  No 
focal liver
lesion identified.
2.  Findings consistent with sclerosing cholangitis.  No 
significant biliary
obstruction or stones, however.

DISCHARGE LABS

___ 06:00AM BLOOD WBC-7.8 RBC-4.46* Hgb-13.5* Hct-39.5* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.5 RDWSD-43.9 Plt ___
___ 06:00AM BLOOD Glucose-99 UreaN-10 Creat-1.1 Na-140 
K-4.7 Cl-102 HCO3-22 AnGap-16
___ 06:00AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.0
___ 06:00AM BLOOD ALT-291* AST-59* LD(LDH)-195 AlkPhos-153* 
TotBili-2.4* DirBili-1.7* IndBili-0.7
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
The patient is a ___ with history of colitis (recently 
on infliximab) due to transaminitis and hyperbilirubinemia, 
asymptomatic and found on routine labs. Right upper quadrant 
ultrasound found steatosis but ruled out gross obstruction of 
the biliary tract. He had MRCP which revealed related findings 
consistent with sclerosing cholangitis. Given the pattern of 
transaminitis, it is thought he may also have had drug-induced 
liver injury from Remicade. Transaminases and bilirubin down 
trended throughout the admission. He remained a symptomatic 
throughout the admission. He was started on ursodiol with plan 
to follow-up as outpatient in the ___ clinic with Dr. 
___ as well as with his primary hepatologist Dr. ___ 
PCP.

ACTIVE ISSUES:
==============
#Transaminitis
#Hyperbilirubinemia
#Primary sclerosing cholangitis
#Drug-induced liver injury secondary to Remicade
Patient noted incidentally to have elevated transaminases and 
hyperbilirubinemia on routine labs. He was asymptomatic but did 
note some darkening of urine and slightly lighter brown stools 
than usual. He had no abdominal pain, jaundice, icterus, or GI 
symptoms. He had a history of 2 past episodes of drug-induced 
liver injury due to Asacol and azathioprine. Right upper 
quadrant ultrasound noted hepatic steatosis but no signs of 
obstruction of the biliary tract. Patient had MRCP which noted 
active inflammation without any focal liver lesions as well as 
findings consistent with sclerosing cholangitis. Based on these 
findings, the hepatology team felt that the patient had primary 
sclerosing cholangitis with possible concomitant drug-induced 
liver injury and initiated ursodiol. Plan to follow-up as 
outpatient in the ___ clinic with Dr. ___ as well as 
with his primary hepatologist Dr. ___ PCP.

CHRONIC ISSUES:
===============
# Ulcerative colitis
Per patient, no pain or significant change in bowel movements to
indicate active flare.
-continued home mesalamine

# HISTORY OF CELIAC DISEASE:
-continued gluten free diet

# HISTORY OF SEASONAL ALLERGIES:
-continued cetirizine

TRANSITIONAL ISSUES:
====================
[ ] Given the increased risk for colorectal cancer in patients 
with concurrent UC and PSC, the patient will require yearly 
colonoscopy and CA ___. In addition, he should have yearly MRI 
to assess for cholangiocarcinoma and gallbladder adenocarcinoma, 
given his increased risk with PSC.

[ ] The patient was initiated on ursodeoxycholic acid prior to 
discharge.

[ ] Plan (per outpatient hepatologist Dr. ___ to give one 
additional round of Remicade tomorrow (___) with close 
monitoring of his LFTs shortly after. If his LFTs do acutely 
increase again after the Remicade, he will likely be switched to 
Humira, which has less effect on liver and lower risk of 
drug-induced liver injury.

[ ] Follow-up with Dr. ___ (Hepatology) outpatient for 
ongoing management of his ulcerative colitis.

[ ] Follow up with Dr. ___ (colorectal surgery) for 
further discussion of colectomy vs. continued biologic therapy 
of his UC.

[ ] An appointment has been made with Dr. ___ in the 
outpatient
autoimmune and cholestatic liver disease clinic, where he will 
be
followed for his PSC.

CONTACT:
Wife, ___ (___)
CODE STATUS: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q4H-Q6H:PRN Pain - Mild/Fever 
2. Mesalamine ___ 2400 mg PO QAM 
3. DiphenhydrAMINE 25 mg PO DAILY:PRN allergies 
4. Cetirizine 10 mg PO DAILY:PRN allergies 
5. Vitamin D 4000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ursodiol 300 mg PO BID for primary sclerosing cholangitis  
2.  Acetaminophen 325-650 mg PO Q4H-Q6H:PRN Pain - Mild/Fever  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  DiphenhydrAMINE 25 mg PO DAILY:PRN allergies  
5.  Mesalamine ___ 2400 mg PO QAM  
6.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Primary sclerosing cholangitis
Drug-induced liver injury secondary to Remicade
Ulcerative colitis
Transaminitis
Hyperbilirubinemia

SECONDARY DIAGNOSES:
Celiac disease
Seasonal allergies

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were noted to 
have elevated liver enzymes.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, your liver function tests were trended for 
improvement.  You had a right upper quadrant ultrasound that 
identified possible hepatic steatosis, but no obvious 
obstruction in your biliary tract.

- You had a procedure called an MRCP.

- You were evaluated by the liver team, who felt that you were 
likely to have a condition called primary sclerosing 
cholangitis.  It is also possible that you had drug-induced 
liver injury from Remicade in addition.

- You were started on a new medication called ursodiol.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.

- You will have follow-up with your primary care physician, your 
hematologist, and an autoimmune liver disease specialist.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___